US05192785
Sulfamic acid 4-oxo-4-phenylbutyl ester
A cold (-10° C.) solution of 5.20 ml (0.06 mole) chlorosulfonyl isocyanate in 50 ml of methylene chloride was treated with a solution of 0.11 ml of water in 5 ml of acetonitrile over a period of 30 min. A solution of 6.56 g (0.04 mole) of 4-oxo-4-phenylbutanol and 8.34 ml (0.06 mole) of triethylamine in 30 ml of methylene chloride was then added to the solution of the sulfamoyl chloride at 0° to 10° C. over 20 min. The reaction mixture was stirred at room temperature for 4 hr. extracted once with water and once with sodium bicarbonate solution. The aqueous layers were back extracted with methylene chloride. The combined organic layers were dried (magnesium sulfate) and concentrated to an oil that solidified on standing. The solid was triturated with 1,1,1-trichloroethane to give 3.90 g of off-white solid. Recrystallization from acetonitrile-1,1,1-trichloroethane yielded 3.2 g of off-white solid, mp 78°-80° C.

reactant | chlorosulfonyl isocyanate | 0.06 mole, 5.20 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 4-oxo-4-phenylbutanol | 0.04 mole, 6.56 g | O=C(CCCO)C1=CC=CC=C1 | C10H12O2
reactant | triethylamine | 0.06 mole, 8.34 ml | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 0.11 ml | O | H2O
product | Sulfamic acid 4-oxo-4-phenylbutyl ester | 3.90 g | O=C(CCCOS(N)(=O)=O)C1=CC=CC=C1 | C10H13NO4S
